US06329416B1
2,3,3-Trimethyl-5-(3-nitro-phenyl)-2,3-dihydro-1H-indole Hydrochloride
A solution of 2,3,3-trimethyl-5-(3-nitro-phenyl)-2,3-dihydro-1H-indole (0.8 g, 2.79 mmol) in 20 mL of 1:1 ether:dioxane at room temperature was treated with 1.5 mL of a 4 M HCl/dioxane solution. The resulting solid was isolated by filtration and washed with hexane to afford the title compound (0.81 g, 90%) as a tan solid: m.p. 240-241° C.; 1H-NMR (CDCl3)δ 1.37 (s, 3H), 1.51 (s, 3H), 4.01 (d,J=6.5 Hz, 1H), 7.51 (s, 1H), 7.59 (d,J=7.3 Hz, 1H), 7.7 (dd,J=7.9, 7.9 Hz, 1H), 7.8 (d,J=7.9, Hz, 1H), 7.89 (d,J=7.7 Hz, 1H), 8.3 (dd,J=7.9, 1.8 Hz, 1H), 8.42 (s, 1H), 11.9 (br s. 2H); MS (EI) m/z 283 (M+H)+.

reactant | 2,3,3-trimethyl-5-(3-nitro-phenyl)-2,3-dihydro-1H-indole | 2.79 mmol, 0.8 g | CC1NC2=CC=C(C=C2C1(C)C)C1=CC(=CC=C1)[N+](=O)[O-] | C17H18N2O2
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | HCl dioxane | 4 M | Cl.O1CCOCC1
solvent | ether | 20 mL | CCOCC | C4H10O
product | 2,3,3-Trimethyl-5-(3-nitro-phenyl)-2,3-dihydro-1H-indole Hydrochloride | 0.81 g, 90% | Cl.CC1NC2=CC=C(C=C2C1(C)C)C1=CC(=CC=C1)[N+](=O)[O-] | InChI=1S/C17H18N2O2.ClH/c1-11-17(2,3)15-10-13(7-8-16(15)18-11)12-5-4-6-14(9-12)19(20)21;/h4-11,18H,1-3H3;1H
